US08404677B2
Synthesis of 2-(4-aminopiperidin-1-yl)-4-(3,5-dimethoxyphenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one hydrochloride
The title compound (Compound 3; MS m/z: 398 (M+H)+) was prepared as described in Example 1g starting from 4-(3,5-dimethoxyphenylamino)-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one (40 mg, 0.29 mmol) and 4-(boc-amino) piperidine and treating with 4 N HCl in dioxane (17 mg).

reactant | 4-(3,5-dimethoxyphenylamino)-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one | 0.29 mmol, 40 mg | COC=1C=C(C=C(C1)OC)NC=1C2=C(N=C(N1)SC)C=CNC2=O | C16H16N4O3S
reactant | 4-(boc-amino) piperidine | C(=O)(OC(C)(C)C)NC1CCNCC1 | C10H20N2O2
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 17 mg | O1CCOCC1 | C4H8O2
product | 2-(4-aminopiperidin-1-yl)-4-(3,5-dimethoxyphenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one hydrochloride | Cl.NC1CCN(CC1)C=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC(=C2)OC)OC | InChI=1S/C20H24N6O3.ClH/c1-28-14-9-13(10-15(11-14)29-2)23-18-17-16(3-6-22-19(17)27)24-20(25-18)26-7-4-12(21)5-8-26;/h3,6,9-12H,4-5,7-8,21H2,1-2H3,(H,22,27)(H,23,24,25);1H
